datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][C:20]1(OCC)C(C)C(C)C([H])C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C([H])C(C)C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C([H])C(C)[O]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C)[O][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"CC[O:10][H].[H][O+:21]=[C:20]([O]CC)[S][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([O]CC)[S][H] 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21]C)([O]CC)[S]CC.[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([O]CC)[S]CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)[H])C1=CC=CC=C1)[O-:10])[H]>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])C1=CC=CC=C1)[H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CC)CC>>CCCCCCN([C:20](=[O:10])OC1=CC=CC=C1)CC.[O-:21]CC 10=20;20,21=21"
"C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]CC)[NH]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]CC)[NH]CC 10=20;20,21=21"
"[O-:10]C(C)C([H])C(O)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(O)C([H])C(C)[O:10]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]CC)([O]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10][H].CC[NH+:21]=[C:20]([O]C)[O]CC 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(C)[NH]1 10=20;20,21=21"
"[H][O:10]C([H])C([H])[NH][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C1=CC=CC=C1)[O-:10])C>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C1=CC=CC=C1)C 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C)CCCCCC)C.[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)C 21=20;20,10=10"
"[OH:21][C:20]1(OCC)[OH+:10]C(CCC)C(O)=C1C>>[OH:10]C(CCC)/C(O)=C([C:20](OCC)=[OH+:21])/C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(O[H])[Cl:21])CCCCCC>>CCCCCCN([C:20](=[O:10])O[H])CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])C)C)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)[H])C)C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[NH:10](C)C(C)C(C)C(C)C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)C(C)C(C)[NH+:10]1(C) 10=20;20,21=21"
"[O:10]([K])C(CC)C([H])/C(C)=C(C)\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)=C(C)C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C([H])[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH]([H])[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])CC 21=20;20,10=10"
"[O:10]([Na])C(CC)C([H])C([C:20](OC)=[O:21])O>>[O-:21][C:20]1(OC)[O+:10]([Na])C(CC)C([H])C1O 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S]C)[O]C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)C.[O-:21]C>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C1=CC=CC=C1)C 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C(C)[O]2.[H][S:10][H] 21=20;20,10=10"
"[OH:10]C(CC)C(O)C([C:20](OC)=[OH+:21])C>>[OH:21][C:20]1(OC)[OH+:10]C(CC)C(O)C1C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[O]CC 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
